US05874424
2-Chlorophenylmethyliodide.
A mixture of 2-chlorophenylmethylbromide (4 g, 19.47 mmol) and NaI (14 g, 97.33 mmol) in acetone (40 ml) was stirred under reflux for 1 hour. The reaction mixture was cooled, filtered and concentrated in vacuo. The residue was triturated with hexane and filtered. The solution was concentrated in vacuo, and the resulting oil purified by flash chromatography (silica, hexane) to afford the title compound (4.67 g, 63%) as an oil: 1H NMR (CDCl3) δ7.34 (4H, m), 4.54 (2H, s).

reactant | 2-chlorophenylmethylbromide | 19.47 mmol, 4 g | ClC1=C(C=CC=C1)CBr | C7H6BrCl
reactant | NaI | 97.33 mmol, 14 g | [Na+].[I-]
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 2-Chlorophenylmethyliodide | 4.67 g, 63% | ClC1=C(C=CC=C1)CI | C7H6ClI
